* source PROJECT_2
C_C1         N15405 N15096  0.001uF  TC=0,0 
C_C4         N15393 N15397  0.001uF  TC=0,0 
C_C3         N15397 N15401  0.001uF  TC=0,0 
C_C2         N15401 N15405  0.001uF  TC=0,0 
